US06562828B1
7-[2-[4-Cyano-1-(pyridin-4-yl)piperidin-4-yl]ethoxy]-1,2,3,4-tetrahydroisoquinoline
To a solution of 7-[2-[4-cyano-1-(pyridin-4-yl)piperidin-4-yl]ethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid benzyl ester (585 mg) in ethanol (5 ml) were added 7.5% palladium carbon (220 mg) and ammonium formate (220 mg), and the mixture was stirred under reflux for 3 hours. After completion of the reaction, the reaction mixture was filtrated and the solvent was evaporated. To the obtained residue was added aqueous sodium hydrogencarbonate and the mixture was extracted with chloroform. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated and the residue was dried under reduced pressure to give the title compound (385 mg).

reactant | 7-[2-[4-cyano-1-(pyridin-4-yl)piperidin-4-yl]ethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid benzyl ester | 585 mg | C(C1=CC=CC=C1)OC(=O)N1CC2=CC(=CC=C2CC1)OCCC1(CCN(CC1)C1=CC=NC=C1)C#N | C30H32N4O3
reactant | ammonium formate | 220 mg | C(=O)[O-].[NH4+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium carbon | 220 mg | [C].[Pd]
product | 7-[2-[4-Cyano-1-(pyridin-4-yl)piperidin-4-yl]ethoxy]-1,2,3,4-tetrahydroisoquinoline | 385 mg | C(#N)C1(CCN(CC1)C1=CC=NC=C1)CCOC1=CC=C2CCNCC2=C1 | C22H26N4O
